US07902373B2
trans-6-(3-Fluorophenyl)-N-[4-hydroxy-1-quinoxalin-2-ylpyrrolidin-3-yl]nicotinamide
To a vial was added trans-6-(3-fluorophenyl)-N-[4-hydroxypyrrolidin-3-yl]nicotinamide (40 mg, 0.12 mmol 2-chloroquinoxaline (29.2 mg, 0.18 mmol), n-butanol, water and triethylamine (0.3 mL of each). The reaction mixture was heated to 90° C. overnight and then cooled to room temperature and the solvent removed. The residue was taken up in DMSO and purified by RP-HPLC to give the desired product, trans-6-(3-fluorophenyl)-N-[4-hydroxy-1-quinoxalin-2-ylpyrrolidin-3-yl]nicotinamide (40 mg, 79%). HRMS (M+H) expected 430.1679, observed 430.1793

reactant | trans-6-(3-fluorophenyl)-N-[4-hydroxypyrrolidin-3-yl]nicotinamide | FC=1C=C(C=CC1)C1=NC=C(C(=O)N[C@@H]2CNC[C@H]2O)C=C1 | C16H16FN3O2
reactant | 2-chloroquinoxaline | 0.12 mmol, 40 mg | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | n-butanol | C(CCC)O | C4H10O
reactant | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | trans-6-(3-fluorophenyl)-N-[4-hydroxy-1-quinoxalin-2-ylpyrrolidin-3-yl]nicotinamide | 40 mg, 79% | FC=1C=C(C=CC1)C1=NC=C(C(=O)N[C@@H]2CN(C[C@H]2O)C2=NC3=CC=CC=C3N=C2)C=C1 | C24H20FN5O2
